US04634713
A solution of 1800 g of p-aminoacetanilide in 7000 ml of dimethylformamide is stirred at room temperature. The solution is then cooled to 10°-15° in an ice-water bath. To the stirred cooled solution is added 1440 g of 2-chloroethyl isocyanate in a thin stream over a 50-minute period, keeping the reaction mixture temperature between 20° and 25°. The reaction mixture is stirred at room temperature for 90 minutes; 8000 ml of ice-water is added over a 20-minute period. After stirring for an additional 2 hours, the solid is filtered off and washed with 4000 ml of water. The crude product is slurried with 7000 ml of 95% alcohol. The solid is filtered off and air-dried overnight at room temperature to give 1-(p-acetamidophenyl)-3-(2-chloroethyl)-urea, m.p. 207°-9° dec.

reactant | p-aminoacetanilide | 1800 g | NC1=CC=C(NC(C)=O)C=C1 | C8H10N2O
reactant | 2-chloroethyl isocyanate | 1440 g | ClCCN=C=O | C3H4ClNO
solvent | dimethylformamide | 7000 ml | CN(C=O)C | C3H7NO
product | 1-(p-acetamidophenyl)-3-(2-chloroethyl)-urea | C(C)(=O)NC1=CC=C(C=C1)NC(=O)NCCCl | C11H14ClN3O2
